US05556857
1-{3-[4-(3-aminophenyl)-1-piperazinyl]propyl}-5-chloro-3,4-dihydrocarbostyril (1 g) was dissolved in 10 ml of chloroform, 5 ml of acetic anhydride and 0.1 g of 4-dimethylaminopyridine were added, and the mixture was heated under reflux for 30 minutes. The reaction mixture was concentrated under reduced pressure, and the residue was purified by silica gel column chromatography and then converted to the hydrochloride form, which was recrystallized from ethanol to give 900 mg of 1-{3-[4-(3-acetylaminophenyl)-1-piperazinyl]propyl}-5-chloro-3,4-dihydrocarbostyril hydrochloride as colorless needles.

reactant | 1-{3-[4-(3-aminophenyl)-1-piperazinyl]propyl}-5-chloro-3,4-dihydrocarbostyril | 1 g | NC=1C=C(C=CC1)N1CCN(CC1)CCCN1C(=O)CCC2=C(C=CC=C12)Cl | C22H27ClN4O
reactant | acetic anhydride | 5 ml | C(C)(=O)OC(C)=O | C4H6O3
solvent | chloroform | 10 ml | C(Cl)(Cl)Cl | CHCl3
catalyst | 4-dimethylaminopyridine | 0.1 g | CN(C1=CC=NC=C1)C | C7H10N2
product | 1-{3-[4-(3-acetylaminophenyl)-1-piperazinyl]propyl}-5-chloro-3,4-dihydrocarbostyril hydrochloride | 900 mg | Cl.C(C)(=O)NC=1C=C(C=CC1)N1CCN(CC1)CCCN1C(=O)CCC2=C(C=CC=C12)Cl | InChI=1S/C24H29ClN4O2.ClH/c1-18(30)26-19-5-2-6-20(17-19)28-15-13-27(14-16-28)11-4-12-29-23-8-3-7-22(25)21(23)9-10-24(29)31;/h2-3,5-8,17H,4,9-16H2,1H3,(H,26,30);1H
